US06174972B1
Stage (b): Preparation of bis(β-propenylcyclo-pentadienyl) dichlorozirconium (2):
A solution of 0.105 mol of methyllithium in ether is added slowly to a solution, vigorously stirred at 0° C., of the β-propenylcyclopentadiene prepared in the preceding stage (a) in ether. The mixture is heated to ambient temperature (20° C.) and is kept stirred for 1 hours. A precipitate of β-propenylcyclopentadienyllithium is isolated by filtration, washed with ether 2′ 100 ml) and dried to give a white powder. 47.5 millimoles of zirconium tetrachloride dissolved in 100 ml of THF are added to a vigorously stirred solution of β-propenylcyclopentadienyllithium in 100 ml of THF at 0° C. The mixture is heated to ambient temperature (20° C.) and is stirred for 16 hours. The volatile compounds are removed under vacuum and the residue is extracted with ether (4′ 100 ml) and filtered. The product is obtained in the form of a white solid by slow cooling of the solution to −78° C. and recrystallization from cold ether.

reactant | zirconium tetrachloride | 47.5 millimoles | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | β-propenylcyclopentadienyllithium | C(C=C)C1(C=CC=C1)[Li]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | bis(β-propenylcyclo-pentadienyl) dichlorozirconium | C(C=C)C1(C=CC=C1)[Zr](Cl)(Cl)C1(C=CC=C1)CC=C | InChI=1S/2C8H9.2ClH.Zr/c2*1-2-5-8-6-3-4-7-8;;;/h2*2-4,6-7H,1,5H2;2*1H;/q;;;;+2/p-2
